US09334269B2
To a solution of 4-(4-(trifluoromethoxy)benzyloxy)piperidine (2.2 g, 8.00 mmol) in isopropanol (25 mL, 3 mL/mmol) was added DIPEA (3.6 mL, 0.02 mol) and 2,4-dichloro-1,3,5-triazine (1.2 g, 8.00 mmol) and the reaction was heated at 80° C. for 2 h. The reaction mixture was concentrated under reduced pressure and extracted with EtOAc (2×40 mL). The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography provided 2-chloro-4-(4-((4-(trifluoromethoxy)benzyl)oxy)piperidin-1-yl)-1,3,5-triazine (800 mg, 57%) as a solid. Observed mass (M+1): 389.0.

reactant | 4-(4-(trifluoromethoxy)benzyloxy)piperidine | 8.00 mmol, 2.2 g | FC(OC1=CC=C(COC2CCNCC2)C=C1)(F)F | C13H16F3NO2
reactant | DIPEA | 0.02 mol, 3.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichloro-1,3,5-triazine | 8.00 mmol, 1.2 g | ClC1=NC=NC(=N1)Cl | C3HCl2N3
solvent | isopropanol | 25 mL | C(C)(C)O | C3H8O
product | 2-chloro-4-(4-((4-(trifluoromethoxy)benzyl)oxy)piperidin-1-yl)-1,3,5-triazine | 800 mg, 57% | ClC1=NC=NC(=N1)N1CCC(CC1)OCC1=CC=C(C=C1)OC(F)(F)F | C16H16ClF3N4O2
